US08236976B2
Preparation of (S)-1-(2-Bromo-phenyl)-4,4-dimethyl-pent-2-en-1-ol (3)
The product was prepared by General procedure S using 50 mg (0.28 mmol) Cy2BH, 35 μL (0.28 mmol) 3,3-dimethyl-1-butyne, 0.26 mL (0.53 mmol, 2.0 M in hexanes) Et2Zn, 2.4 mg (0.01 mmol) (−)-MIB, and 29 μL (0.25 mmol) o-bromobenzaldehyde. The crude product was purified by column chromatography (5% ethyl acetate in hexanes) to afford the title compound as a colorless oil in 76% yield (51 mg, 0.19 mmol). [α]D20=−31.8 (c=0.33, CHCl3, 93% ee); 1H NMR (CDCl3, 500 MHz): δ 1.02 (s, 9H), 2.03 (s, 1H), 5.46-5.53 (m, 2H), 5.86 (d, 1H, J=15.0 Hz), 7.13 (t, 1H, J=7.6 Hz), 7.33 (t, 1H, J=7.5 Hz), 7.52 (d, 1H, J=8.9 Hz), and 7.54 (d, 1H, J=8.2 Hz) ppm; 13C{1H} NMR (CDCl3, 125 MHz): δ 29.4, 33.0, 73.8, 122.6, 125.0, 127.7, 127.8, 128.9, 132.8, 142.3, and 144.3 ppm; IR (neat): 3353, 3064, 3013, 2958, 2865, 1721, 1661, 1590, 1568, 1465, 1439, 1363, and 1267 cm−1; HRMS-CI m/z 251.0432 [(M−OH)+; calcd for C13H16Br: 251.0435].

reactant | Cy2BH | 0.28 mmol, 50 mg | B(C1CCCCC1)C1CCCCC1 | C12H23B
reactant | 3,3-dimethyl-1-butyne | 0.28 mmol, 35 μL | CC(C#C)(C)C | C6H10
reactant | Et2Zn | 0.53 mmol, 2.0 M, 0.26 mL | [Zn](CC)CC
reactant | o-bromobenzaldehyde | 0.25 mmol, 29 μL | BrC1=C(C=O)C=CC=C1 | C7H5BrO
product | (S)-1-(2-Bromo-phenyl)-4,4-dimethyl-pent-2-en-1-ol | 76% yield | BrC1=C(C=CC=C1)[C@H](C=CC(C)(C)C)O | C13H17BrO
